US04814342
D. N-(Morpholinocarbonyl)-L-phenylalanine-S-methyl-L-cysteine
To an ice-cooled solution of 1.15 g N-(morpholinocarbonyl)-L-phenylalanine-S-methyl-L-cysteine methyl ester in 30 mL water and 60 mL methanol was added 3.5 g potassium carbonate. The resulting mixture was stirred at 0° for 15 min. and at ambient temperature for 4 h. The solution was concentrated in vacuo to an aqueous solution, which was acidified with conc. hydrochloric acid and extracted 3×50 mL methylene chloride. The combined extracts were dried over magnesium sulfate, filtered and concentrated in vacuo to afford 1.0 g (89%) of the crude acid.

reactant | N-(morpholinocarbonyl)-L-phenylalanine S-methyl-L-cysteine methyl ester | 1.15 g | O1CCN(CC1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O.COC([C@@H](N)CSC)=O
reactant | potassium carbonate | 3.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 30 mL | O | H2O
solvent | methanol | 60 mL | CO | CH4O
product | N-(Morpholinocarbonyl)-L-phenylalanine S-methyl-L-cysteine | 1.0 g, 89% | O1CCN(CC1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O.CSC[C@H](N)C(=O)O | InChI=1S/C14H18N2O4.C4H9NO2S/c17-13(18)12(10-11-4-2-1-3-5-11)15-14(19)16-6-8-20-9-7-16;1-8-2-3(5)4(6)7/h1-5,12H,6-10H2,(H,15,19)(H,17,18);3H,2,5H2,1H3,(H,6,7)/t12-;3-/m00/s1
